US04556715
4-[3-(4-Chlorophenyl)propoxy]benzyl nicotinate
A mixture of 2.0 g (0.007 mole) of 4-[3-(4-chlorophenyl)propoxy)-phenylmethanol and 4.0 g triethylamine is added to 3.6 g (0.02 mole) of hydrochloride of nicotinoyl chloride in 50 ml of anhydrous benzene with stirring and the mixture is refluxed for 4 hrs. After cooling, water is added to the reaction mixture. The product is extracted with benzene and the extract is washed with water and dried over sodiun sulfate. Benzene is removed, the residual solid is recrystallized from ethanol to give a title compound in yield of 1.8 g (67.3%).

reactant | 4-[3-(4-chlorophenyl)propoxy)-phenylmethanol | 0.007 mole, 2.0 g | ClC1=CC=C(C=C1)CCCOC1=CC=C(C=C1)CO | C16H17ClO2
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | 0.02 mole, 3.6 g | Cl | ClH
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 4-[3-(4-Chlorophenyl)propoxy]benzyl nicotinate | C(C1=CN=CC=C1)(=O)OCC1=CC=C(C=C1)OCCCC1=CC=C(C=C1)Cl | C22H20ClNO3
